US06900217B2
4-(1-Ethyl-propoxy)-2,5-dimethyl-7-(2,4,6-trimethyl-phenyl)-5H-pyrrolo[3,2-d]py-rimidine
To a solution of 3-pentanol (0.09 ml, 0.883 mmol) in dry THF was added 60% NaH in oil (20 mg, 0.500 mmol) and stirred for 5 min. A solution of 4-chloro-2,5-dimethyl-7-(2,4,6-trimethyl-phenyl)-5H-pyrrolo[3,2-d]pyrimidine (50 mg, 0.166 mmol) in dry THF was added to the reaction mixture and the resulting mixture was heated at reflux for 2 hr. The mixture was quenched with water, extracted with ethyl acetate. The organic layer was washed with brine, separated, dried and concentrated to dryness to give the title compound as a white solid. 1H NMR (CDCl3) ä 6.92(s, 3H), 5.43(m, 1H), 4.02(s, 3H), 2.56(s, 3H), 2.29(s, 3H), 2.08(s, 6H), 1.80(m, 4H), 0.99(t, 6H).

reactant | 3-pentanol | 0.883 mmol, 0.09 ml | CCC(CC)O | C5H12O
reactant | NaH | [H-].[Na+]
reactant | 4-chloro-2,5-dimethyl-7-(2,4,6-trimethyl-phenyl)-5H-pyrrolo[3,2-d]pyrimidine | 0.166 mmol, 50 mg | ClC=1C2=C(N=C(N1)C)C(=CN2C)C2=C(C=C(C=C2C)C)C | C17H18ClN3
solvent | THF | C1CCOC1 | C4H8O
product | 4-(1-Ethyl-propoxy)-2,5-dimethyl-7-(2,4,6-trimethyl-phenyl)-5H-pyrrolo[3,2-d]py-rimidine | C(C)C(CC)OC=1C2=C(N=C(N1)C)C(=CN2C)C2=C(C=C(C=C2C)C)C | C22H29N3O
